US09216999B2
1-[1-(Benzylsulfonyl)piperidin-4-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one
1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one (18.5 mg, 0.0460 mmol) in dichloromethane was mixed with phenylmethanesulfonyl chloride (17.5 mg, 0.092 mmol) and triethylamine (12.8 μL, 0.0920 mmol) for 1 hour under cooling with ice. After addition of water, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=9/1 (v/v)) to give the title compound as a pale yellow solid (18.4 mg, yield 72%).

reactant | 1-(Piperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one | 0.0460 mmol, 18.5 mg | N1CCC(CC1)N1C(NCC2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C20H31N5O2Si
reactant | phenylmethanesulfonyl chloride | 0.092 mmol, 17.5 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 0.0920 mmol, 12.8 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[1-(Benzylsulfonyl)piperidin-4-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one | 18.4 mg, yield 72% | C(C1=CC=CC=C1)S(=O)(=O)N1CCC(CC1)N1C(NCC2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C27H37N5O4SSi
